US03996181
A glass polymerization vessel equipped with a reflux condenser, a dropping funnel, a thermometer and a stirrer was charged with 430 parts of vinyl acetate, 215 parts of methanol, 30 parts of sodium allylsulfonate and 0.20% by mole of azobisisobutylonitrile per mole of the vinyl acetate. After carrying out the polymerization at a temperature of 60° to 65° C. for 8 hours, the residual vinyl acetate was removed by a conventional method to give vinyl acetate-sodium allylsulfonate copolymer containing 2.5% by mole of sodium allylsulfonate unit. Then the copolymer was hydrolyzed by a conventional method to give a modified PVA of which degree of hydrolysis in vinyl acetate unit was 98.5% by mole.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | sodium allylsulfonate | C(C=C)S(=O)(=O)[O-].[Na+]
reactant | azobisisobutylonitrile | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | methanol | CO | CH4O
product | vinyl acetate sodium allylsulfonate | C(C)(=O)OC=C.C(C=C)S(=O)(=O)[O-].[Na+] | InChI=1S/C4H6O2.C3H6O3S.Na/c1-3-6-4(2)5;1-2-3-7(4,5)6;/h3H,1H2,2H3;2H,1,3H2,(H,4,5,6);/q;;+1/p-1
